US05863917
Pyridine (80 μl, 78 mg, 0.985 mmol) and methanesulphonic anhydride (172 mg, 0.985 mmol) were added to a solution of 5-amino-7-chloro-2,3-dimethoxy-6-methylquinoxaline (50 mg, 0.197 mmol) in dry tetrahydrofuran (1.6 ml) at room temperature under nitrogen. After stirring for 17 hours water (0.3 ml) was added and stirring continued for 1 hour. The mixture was diluted with ethyl acetate (15 ml) and washed with 2M hydrochloric acid (5 ml), water(5 ml), saturated sodium bicarbonate solution (5 ml) and brine (5 ml) and then dried (MgSO4), filtered and concentrated under reduced pressure to afford N-(7-chloro-2,3-dimethoxy-6-methylquinoxalin-5-yl)methanesulphonamide (66 mg, 100%) as a white solid mp 228°-229° C.

reactant | Pyridine | 0.985 mmol, 80 μl, 78 mg | N1=CC=CC=C1 | C5H5N
reactant | methanesulphonic anhydride | 0.985 mmol, 172 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | 5-amino-7-chloro-2,3-dimethoxy-6-methylquinoxaline | 0.197 mmol, 50 mg | NC1=C2N=C(C(=NC2=CC(=C1C)Cl)OC)OC | C11H12ClN3O2
reactant | water | 0.3 ml | O | H2O
solvent | tetrahydrofuran | 1.6 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | N-(7-chloro-2,3-dimethoxy-6-methylquinoxalin-5-yl)methanesulphonamide | 66 mg, 100% | ClC1=C(C(=C2N=C(C(=NC2=C1)OC)OC)NS(=O)(=O)C)C | C12H14ClN3O4S
